US04251659
A stirred mixture of 83.6 g (0.4 mole) of 1-benzylindoline, 250 ml of toluene, and 77.2 g (0.4 mole) of hexafluoroacetone sesquihydrate is refluxed for four hours. The mixture is then refluxed under Dean-Stark conditions until all water is removed. The solution is evaporated. The residue is dissolved in 500 ml of methylcyclohexane (heating, if necessary) and allowed to crystallize under nitrogen atmosphere. The gummy crystals are filtered off, washed, and dried to give 116.3 g (77%) of 1-benzyl-α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol, m.p. 85°-90°. Because solutions of these crystals oxidize readily, further purification by recrystallization entails needless loss; therefore, the crude crytals are used for the next step.

reactant | 1-benzylindoline | 0.4 mole, 83.6 g | C(C1=CC=CC=C1)N1CCC2=CC=CC=C12 | C15H15N
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
reactant | hexafluoroacetone sesquihydrate | 0.4 mole, 77.2 g | O.FC(C(=O)C(F)(F)F)(F)F.O.O.FC(C(=O)C(F)(F)F)(F)F
solvent | water | O | H2O
product | 1-benzyl-α,α-bis(trifluoromethyl)-2,3-dihydro-1H-indole-5-methanol | 116.3 g, 77% | C(C1=CC=CC=C1)N1CCC2=CC(=CC=C12)C(O)(C(F)(F)F)C(F)(F)F | C18H15F6NO
